US03941785
b. 2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazine, hydrochloride
2-Amino-3,4-dihydro-5-methyl-7-propylimidazo [5,1-f]-as-triazine (2 g.) in ethanol was treated with a solution of hydrogen chloride in ether. The solid was collected and crystallised from a mixture of ethanol and ether to give a white solid m.p. 263° (decomp.).

reactant | 2-Amino-3,4-dihydro-5-methyl-7-propylimidazo [5,1-f]-as-triazine | 2 g | NC1=NN2C(CN1)=C(N=C2CCC)C | C9H15N5
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazine, hydrochloride | Cl.NC1=NN2C(CN1)=C(N=C2CCC)C | InChI=1S/C9H15N5.ClH/c1-3-4-8-12-6(2)7-5-11-9(10)13-14(7)8;/h3-5H2,1-2H3,(H3,10,11,13);1H
